US05416065
Preparation of 4-methoxy-pyrazolidine-N,N'-dicarboxylic acid di-tert-butyl ester
At 0°-5° C., 1.2 g of a sodium hydride dispersion (80 %) are added in portions to a solution of 8.6 g of 4-hydroxy-pyrazolidine-N,N'-dicarboxylic acid di-tert-butyl ester in 90 ml of N,N-dimethylformamide. After stiffing for 30 minutes at 0°-5° C., a solution of 2.5 ml of methyl iodide in 10 ml of N,N-dimethylformamide is added dropwise thereto. Stirring is then continued for 3 hours at 0°-5° C. and then 500 ml of diethyl ether are added thereto. The organic phase is washed with water, dried over sodium sulfate and concentrated to yield 8.0 g of the desired product, 4-methoxy-pyrazolidine-N,N'-dicarboxylic acid di-tertbutyl ester, in the form of a yellow oil.

reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | 4-hydroxy-pyrazolidine-N,N'-dicarboxylic acid di-tert-butyl ester | 8.6 g | C(C)(C)(C)OC(=O)N1N(CC(C1)O)C(=O)OC(C)(C)C | C13H24N2O5
reactant | methyl iodide | 2.5 ml | CI | CH3I
reactant | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-methoxy-pyrazolidine-N,N'-dicarboxylic acid di-tert-butyl ester | 8.0 g | C(C)(C)(C)OC(=O)N1N(CC(C1)OC)C(=O)OC(C)(C)C | C14H26N2O5
